US04558124
p-Nitrobenzyl 3-chloro-7-(2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopent-1-yl)-3-cephem-4-carboxylate
A solution of 1,2-bis(chlorodimethylsilyl)ethane (3.2 g) in methylene chloride (20 ml) was added to a stirred mixture of p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate (5.0 g) and triethylamine (4.9 ml) in methylene chloride (25 ml) under a nitrogen atmosphere. The mixture was stirred at reflux for 16 hours, then allowed to cool to room temperature, and washed with 8% aqueous sodium hydrogen phosphate solution. The organic layer was separated, dried with magnesium sulphate, and evaporated under reduced pressure to give the title compound as a gum, nmr (CDCl3) δ 0.17 (s, 12H), 0.78 (s, 4H), 3.38+3.82 (ABq, J=18 Hz, 2H), 4.76 (d, J=4 Hz, 1H), 4.93 (d, J=4 Hz, 1H), 5.28 (s, 2H), 7.3-8.1 (m, 4H).

reactant | 1,2-bis(chlorodimethylsilyl)ethane | 3.2 g | Cl[Si](CC[Si](C)(C)Cl)(C)C | C6H16Cl2Si2
reactant | p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate | 5.0 g | NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H12ClN3O5S
reactant | triethylamine | 4.9 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 3-chloro-7-(2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopent-1-yl)-3-cephem-4-carboxylate | ClC=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2N2[Si](CC[Si]2(C)C)(C)C)=O | C20H26ClN3O5SSi2
